US07863271B2
Following general procedure GP-B2, methyl 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate was reacted with lithium hydroxide monohydrate to provide lithium 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate. 1H NMR and MS consistent.

reactant | methyl 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | C(C)(=O)N1C[C@@H](N([C@H](C1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C | C17H21N3O4
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | lithium 2-((2S,6S)-4-acetyl-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | C(C)(=O)N1C[C@@H](N([C@H](C1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)[O-])C.[Li+] | InChI=1S/C16H19N3O4.Li/c1-9-7-18(11(3)20)8-10(2)19(9)16-17-14-12(15(21)22)5-4-6-13(14)23-16;/h4-6,9-10H,7-8H2,1-3H3,(H,21,22);/q;+1/p-1/t9-,10-;/m0./s1
